*Working circuit to model Leakage currents in NMOS with ON condition for
*length = 45n, width = {1µ,2µ,3µ,4µ,6µ,8µ}
         
.INCLUDE C:\Users\Arpit\Documents\NGSpice\DVD\Project-1\45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Parameter definition
.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n
	
*Description of the MOS

Mn drain gate source body nmos W={Wmin} L={Lmin} 

Vd 	drain	0		0
Vg 	gate	alim	0
Vs 	source	0		0
Vb 	body	0		0

Vdd alim	0		0

*Definition of type of analysis
.CONTROL
let voltage=0
let Vddbasic=1.2
while voltage le Vddbasic
  let voltage = voltage + 0.01
  alter Vdd = voltage
  dc TEMP 30 30 1
  print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
  wrdata NMOS_ON_1u.txt abs(V(alim))V(drain)V(gate)V(source)V(body)I(Vd)I(Vg)I(Vs)I(Vb)
end
   set wr_singlescale
   set appendwrite
.ENDC
.END
